US04727180
To a solution of 50 ml of methanol in 50 ml toluene are added 7.0 g (0.02 mole) of 2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid and 1 ml of concentrated sulfuric acid. The resulting solution is stirred, heated at reflux for 18 hours, then concentrated to 20 ml at reduced pressure, and extracted with ether. The resulting ether solution is washed with 5% sodium bicarbonate solution and water. The solution is dried with anhydrous magnesium sulfate, filtered and concentrated at reduced pressure to obtain a residual solid which is recrystallized from petroleum ether to give 5.5 g of methyl 2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoate having a melting point of 78°-80°.

reactant | methanol | 50 ml | CO | CH4O
reactant | 2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid | 0.02 mole, 7.0 g | COC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC(=O)O | C13H12F6O4
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-methoxy-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoate | 5.5 g | COC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC(=O)OC | C14H14F6O4
